US06166028
N-(4-Aminophenyl)-2-hydroxymethylbenzamide
To a solution of N-(4-aminophenyl)phthalimide (332 mg) in tetrahydrofuran (4 mL) is added lithium borohydride (1.0 g) and the mixture is stirred for 1 hour at 25° C. The mixture is poured into water and extracted into ethyl acetate. The ethyl acetate solution is dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a white foam, which when triturated with diethyl ether provides the desired product as a white powder.

reactant | N-(4-aminophenyl)phthalimide | 332 mg | NC1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H10N2O2
reactant | lithium borohydride | 1.0 g | [BH4-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-(4-Aminophenyl)-2-hydroxymethylbenzamide | NC1=CC=C(C=C1)NC(C1=C(C=CC=C1)CO)=O | C14H14N2O2
